US05010195
Preparation of 4-Fluoro-2-methylthio-6-hydrazinopyrimidine
A solution of 15.8 g (0.097 mol) of 4,6-di-fluoro-2-methylthiopyrimidine in 50 ml of ethanol was added slowly with stirring to a solution of 11.6 ml (12.0 g, 0.214 mol) of hydrazine monohydrate in 100 ml of ethanol, keeping the temperature below 0° C. by external cooling. The mixture was allowed to react for an additional 30 min and the volatiles were then removed by evaporation under reduced pressure. The residue was diluted with ethyl acetate and the resulting solution extracted with water, dried over magnesium sulfate, and concentrated under reduced pressure to obtain 16.0 g of the title compound as a white powder melting at 153° C.-154° C.

reactant | 4,6-di-fluoro-2-methylthiopyrimidine | 0.097 mol, 15.8 g | FC1=NC(=NC(=C1)F)SC | C5H4F2N2S
reactant | hydrazine monohydrate | 0.214 mol, 11.6 ml, 12.0 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-Fluoro-2-methylthio-6-hydrazinopyrimidine | 16.0 g | FC1=NC(=NC(=C1)NN)SC | C5H7FN4S
